US08076345B2
5-Methyl-2-(4-(1-(4-methyl-3-(methylsulfonyl)phenyl)ethylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile
A reaction mixture of 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile (360 mg, 1.26 mmol) and 1-(4-methyl-3-(methylsulfonyl)phenyl)ethanamine (400 mg, 1.88 mmol) in acetonitrile (3 mL) and N,N-diisopropylethylamine (1 mL) was subjected to microwave irradiation at 185° C. for 3.5 h. The reaction mixture was concentrated and the residue was purified by preparative HPLC (100×20.2 mm, C18 column; 30-60% acetonitrile-water [10 mM Et2NH]) to afford a light yellow solid (290 mg).

reactant | 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile | 1.26 mmol, 360 mg | ClC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)C | C15H13ClN4
reactant | 1-(4-methyl-3-(methylsulfonyl)phenyl)ethanamine | 1.88 mmol, 400 mg | CC1=C(C=C(C=C1)C(C)N)S(=O)(=O)C | C10H15NO2S
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | N,N-diisopropylethylamine | 1 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | 5-Methyl-2-(4-(1-(4-methyl-3-(methylsulfonyl)phenyl)ethylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile | 290 mg | CC=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2NC(C)C2=CC(=C(C=C2)C)S(=O)(=O)C)CC1 | C25H27N5O2S
